US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-phenyl-thiazol-4-yl)ethanamine
1.32 g (0.006 mol) of 2-Hydroxy-2-(2-phenyl-thiazol-4-yl)ethanamine and 1.33 g (0.006 mol) of 1-(4-carbomethoxymethoxyphenyl)-propan-2-one are dissolved in 40 ml of absolute methanol, and 0.34 ml (0.006 mol) of glacial acetic acid and 0.37 g (0.006 mol) of sodium cyanoborohydride are added and the mixture is stirred at room temperature for 20 hours. It is then poured onto ice, and the mixture is acidified with hydrochloric acid, made alkaline with sodium bicarbonate solution and extracted with chloroform. The extract is dried over sodium sulphate, concentrated and purified on a silica gel column using ethyl acetate/methanol=9:1 as eluant.

reactant | 2-Hydroxy-2-(2-phenyl-thiazol-4-yl)ethanamine | 0.006 mol, 1.32 g | OC(CN)C=1N=C(SC1)C1=CC=CC=C1 | C11H12N2OS
reactant | 1-(4-carbomethoxymethoxyphenyl)-propan-2-one | 0.006 mol, 1.33 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | acetic acid | 0.006 mol, 0.34 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.006 mol, 0.37 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-phenyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C1=CC=CC=C1)O | C23H26N2O4S
